Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
ibuprofen / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
incidental papilledema
 
Major Surgical or Invasive Procedure:
lumbar puncture ___

 
History of Present Illness:
Ed is a pleasant ___ man with medical history of OSA
on CPAP, obesity, psoriasis, cervical spondylitis and headaches
who presents to neurology department sent by his
neuro-ophthalmologist for evaluation of bilateral papilledema. 
Neurology consulted for assistance in diagnosing idiopathic
intracranial hypertension.

The patient reports has been in his usual state of health which
includes independence in all activities of daily living.  He was
recently seen routinely by his optometrist in the At___ group,
who found him to have bilateral papilledema and sent him to
neuro-ophthalmology for further evaluation. Per chart review of
ophthalmology notes "there is unequivocal papilledema due to
raised intracranial pressure in both eyes.  Left eye more so 
than
right eye, as well as hypertensive retinopathy".  He was sent to
the emergency department for imaging and LP.  In terms of
associated symptoms he describes lifetime headaches which are
usually variable in intensity but do not seem to bother him 
much.
He reports that they mostly happen over his left occiput, they
are dull in quality without radiation and associated with neck
spasm.  He denies any nausea, vomiting, photophobia, 
phonophobia,
focal motor or sensory component.  He denies a positional
component.  Reports headaches do not wake him up from sleep
however has woken up with a headache in the morning occasionally
(taking into consideration that he has obstructive sleep apnea 
on
CPAP).  He does admit to having tinnitus which has been
long-standing for many years, he denies any pulsatile component
but does report a high frequency sound that is present at all
times. In terms of his vision he reports over the last ___ years
has not been able to see as well as he would want but has gotten
regular checkups and glasses as needed.  

Regarding lifestyle factors he reports sleeps well with his CPAP
and wakes up occasionally and briefly to reposition from laying
on his back to his side.  He drinks water but does not keep 
track
of how much.  He denies caffeine intake.  He reports does not
practice as much physical activity as he would like.  There are
no significant life stressors, however he does note that work 
has
been somewhat more stressful in the last couple of months.  Of
note reports an unintentional weight loss, as noticed losing ___
inches of his waistline.  Incidentally he reports is newly
sensitive to cold which he formerly was not and does not recall 
a
recent thyroid check.  He also complains of postnasal dripping
and cough.  He does recall having viral meningitis ___ years ago
associated with severe headache. Denies taking vitamin A.

 
Past Medical History:
Headache
Sleep apnea
Cervical spondylitis
Psoriasis
Morbid obesity
Osteoarthritis of right ___

 
Social History:
___
Family History:
Father: ___, mitral valve replacement ___ years ago
Mother: ___ replacement, severe back problems
Son: ___ disease status post small bowel resection currently
stable

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
==============================
Vitals: 
97.8 
68 
___ 
98% RA 
 
General: NAD
HEENT: NCAT,  no oropharyngeal lesions, crowding of the 
posterior
oropharynx
Neck: supple, decreased ROM
___: RRR
Pulmonary: Breathing unlabored on room air
Abdomen: Soft
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive. Speech is fluent with 
full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias.  No dysarthria. Normal prosody.
No evidence of hemineglect. No left-right confusion.  Able to
follow both midline and appendicular commands.

- Cranial Nerves: Visual acuity ___ bilaterally, fundoscopic
examination notable for bilateral papilledema (left greater than
right), pupil status post dilation 5 mm and nonreactive. VF full
to confrontation. EOM with subtle limitation of abduction
bilaterally but no nystagmus. V1-V3 without deficits to light
touch bilaterally. No facial movement asymmetry. Hearing intact
to finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.  
Negative
occipital Tinel sign.

- Motor: Normal bulk and tone. No drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4+  5    5  5     5     5
R  5    ___   ___  4+  5    5  5     5     5

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
L  2+  2+  2+   2+   2+
R  2+  2+  2+   2+   2+
Plantar response flexor bilaterally.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. 

DISCHARGE PHYSICAL EXAMINATION
==============================
98.3 PO 177 / 90 68 18 97 Ra 
General: NAD
Neck: supple, decreased ROM
Pulmonary: Breathing unlabored on room air
Abdomen: Soft
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert and relates interval history. 
Speech fluent and not dysarthric.

CN: Pupils 3 to 2 and reactive to light. Left and right eye do 
not ___ completely on lateral gaze. No diplopia in all fields. 
Right fields intact to red pin, Left field intact to red pin. OS 
___ -1, OD ___ -1. Wearing his old prescription glasses. 
___ OS with pin hole. ___ -1 OD with pin hole. Face 
sensation intact. Face symmetric.

Motor: No tremor, no drift. IP and HAM full. Moving all 
extremities spontaneously and symmetrically. 

Reflexes: Upper extremities brisk, patellars 1 bilaterally and 
Achilles 1 bilaterally. 

Gait: narrow base and stride

 
Pertinent Results:
LAB DATA:
=========
___ 12:10PM BLOOD WBC: 8.6 RBC: 4.92 Hgb: 15.4 Hct: 44.0
MCV: 89 MCH: 31.3 MCHC: 35.0 RDW: 12.9 RDWSD: 42.___ 
___ 12:10PM BLOOD Neuts: 66.0 Lymphs: ___ Monos: 8.4 Eos:
1.4 Baso: 1.3* Im ___: 0.6 AbsNeut: 5.66 AbsLymp: 1.91 AbsMono:
0.72 AbsEos: 0.12 AbsBaso: 0.11* 
___ 12:10PM BLOOD Plt Ct: 220 
___ 12:10PM BLOOD ___: 12.6* PTT: 32.7 ___: 1.2* 
___ 12:10PM BLOOD Glucose: 91 UreaN: 7 Creat: 1.0 Na: 141 
K:
4.2 Cl: 100 HCO3: 26 AnGap: 15 
___ 12:10PM BLOOD ALT: 24 AST: 25 AlkPhos: 80 TotBili: 0.7 
___ 12:10PM BLOOD Lipase: 39 
___ 12:10PM BLOOD Albumin: 4.6 
___ 12:23PM BLOOD Lactate: 1.5 

IMAGING: 
========
+ MRI/MRV
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction.   The ventricles and sulci are 
normal in caliber and 
configuration.  There is no abnormal enhancement after contrast 
administration.  The intracranial arteries demonstrate normal T2 
flow voids.  Mild mucosal thickening involving the ethmoid air 
cells.  The orbits appear normal.  Partially empty sella.  The 
craniocervical junction appears normal.  The dural venous 
sinuses are patent with no transverse sinus stenosis.  No 
tonsillar ectopia. 

CSF:
====
___ 01:18PM CEREBROSPINAL FLUID (CSF) TNC-6* RBC-___* 
Polys-29 ___ Macroph-2
___ 01:18PM CEREBROSPINAL FLUID (CSF) TotProt-53* 
Glucose-67
___ 01:18PM CEREBROSPINAL FLUID (CSF) CSF HOLD-PND
 
Brief Hospital Course:
Mr. ___ is a pleasant ___ man with medical history 
of OSA on CPAP, obesity, psoriasis, cervical spondylitis and 
headaches who presents with incidentally noted bilateral 
papilledema on opthamology evaluation. His history is notable 
for long time headaches which are bifrontal and dull 5d/month 
without nausea, emesis, photophobia, or photophobia. There are 
no positional features. He denies pulsatile tinnitus. He reports 
worsening vision over the course of months with some blurry of 
peripheral vision. He denied other symptoms. His exam was 
notable for ___ vision bilaterally and full fields. His EOM 
were notable for inability to bury sclera fully bilaterally. He 
had bilateral papilledema. The remainder of his cranial nerve, 
motor, sensory and coordination was intact. He underwent MRI/MRV 
which showed no structural process or venous thrombus to explain 
his papilledema. He had an LP which showed no signs of infection 
(TNC 1, RBC 43) and opening pressure of 21, which is slightly 
elevated from the normal pressure. His papilledema was not found 
to be due to a structural or thrombosis etiology and it was 
thought that it is likely due from idiopathic intracranial 
hypertension; however, notably his blood pressure was elevated 
to 180-200 systolic at times, and malignant hypertension may be 
playing a role in his papilledema as well. 

He has allergy to sulfa drugs so was started on Topamax. He will 
follow-up with neuro-ophthalmology for further monitoring of his 
visual fields. 

He was started on lisinopril and amlodipine 5 mg for SBP up to 
200s. He will follow-up with his primary care doctor for this 
issue. 

TRANSITIONAL ISSUES 
===================
#NEW MEDICATIONS: Topamax 25 mg BID (to be up-titrated to 50 mg 
BID after one week), amlodipine 5 mg daily (started for sbp up 
to 180 consistently), lisinopril 20 mg daily (sbp to 180s)
[] Follow-up blood pressure at PCP ___ 
[] Follow-up CSF studies (cytology). There is a CSF hold on the 
sample sent if further testing is needed.
[] Ongoing follow-up with neuro-ophtho for monitoring of visual 
fields and management of idiopathic intracranial hypertension
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Indomethacin 50 mg PO TID 
2. Betamethasone Dipro 0.05% Cream 1 Appl TP Frequency is 
Unknown 
3. Vitamin D 5000 UNIT PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin E 400 UNIT PO DAILY 
6. Ascorbic Acid ___ mg PO DAILY 
7. biotin unknown  oral other 
8. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 10 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
3.  Topiramate (Topamax) 25 mg PO BID 
Start at 25 mg at bedtime and increase to 25 mg twice daily 
after one week. 
RX *topiramate 25 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*0 
4.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Betamethasone Dipro 0.05% Cream 1 Appl TP BID:PRN Psoriasis  
 
7.  biotin 1  Mg oral DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Vitamin D 5000 UNIT PO DAILY  
10.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bilateral papilledema
systemic hypertension
idiopathic intracranial hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were found to have swelling 
of the optic nerve in your eyes. 

While you were in the hospital you had imaging to see if there 
was a mass or blood clot which would cause high pressure. 
Imaging showed your brain is normal without a mass or blood 
clot. You also had a lumbar puncture or a "spinal tap" to check 
to see if the pressure in your head is elevated which showed 
mildly elevated pressure. For this we have started you on a 
medication called "Topamax", which will help decrease the 
pressure and relieve the pressure on your optic nerve. You 
should take 25 mg twice a day and increase to 50 mg twice a day 
after one week. You should continue this medication until you 
follow up with your neurologist.

We also discussed weight loss with you. Losing weight will help 
your increased pressure as well as lower your blood pressure. 

We also stopped the medicine "Indomethacin" as this medicine can 
cause high blood pressure and headaches. For your ___ pain, we 
recommend up to 1000 mg Tyelenol (2 extra strength tablets) up 
to every 8 hours. You do not need a prescription for this 
medicine.

We started two blood pressure medicines called "amlopdine" and 
"lisinopril" while you were in the hospital due to your elevated 
blood pressures. Please follow-up with your primary care doctor 
next week to check your blood pressure, as it was elevated in 
the hospital. You should also monitor your blood pressures at 
home at least daily. 

Please follow-up with your doctors ___ below). Please take 
your medicine exactly as prescribed. 

Please seek immediate medical attention if you have any changes 
in your vision, worsening headache with nausea or vomiting or 
any other symptoms that concern you. 

We wish you the best,
___ Neurology

 
Followup Instructions:
___